US09193723B2
2-(4-benzoylpiperazin-1-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)-1,3-thiazole-5-carboxamide
The title compound was prepared as in Example 53B, substituting phenyl(piperazin-1-yl)methanone for 4-cyanobenzylamine and 2-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiazole-5-carboxamide for 2-bromo-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide. 1H NMR (300 MHz, DMSO-d6) ppm 8.86 (t, J=6.0 Hz, 1H), 8.48 (d, J=6.7 Hz, 1H), 7.90 (s, 1H), 7.89 (s, 1H), 7.52 (d, J=1.2 Hz, 1H), 7.41-7.50 (m, 5H), 7.37 (s, 1H), 6.82 (dd, J=7.1, 1.6 Hz, 1H), 4.43 (d, J=5.6 Hz, 2H), 3.41-3.82 (m, 8H); MS (ESI(+)) m/e 447 (M+H)+.

reactant | 4-cyanobenzylamine | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
reactant | 2-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C12H9BrN4OS
reactant | 2-bromo-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)NC=1C=CC=2N(C1)C=CN2 | C11H7BrN4OS
product | 2-(4-benzoylpiperazin-1-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)-1,3-thiazole-5-carboxamide | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C=1SC(=CN1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C23H22N6O2S
